US07807720B2
7-Carboxyheptanyltriphenylphosphonium bromide (A5)
A solution of 7-bromoheptanoic acid (5.000 g, 23.913 mmol) and PPh3 (6.899 g, 26.304 mmol) in 50 mL of toluene was refluxed for 63 h. After cooling to room temperature, the solvent was removed under reduced pressure and the residue was tritited with ether three times and dried in vacuum to give the title compound as a white foam solid (9.240 g, 82% yield).

reactant | 7-bromoheptanoic acid | 23.913 mmol, 5.000 g | BrCCCCCCC(=O)O | C7H13BrO2
reactant | PPh3 | 26.304 mmol, 6.899 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 7-Carboxyheptanyltriphenylphosphonium bromide | [Br-].C(=O)(O)CCCCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C26H29O2P.BrH/c27-26(28)21-13-2-1-3-14-22-29(23-15-7-4-8-16-23,24-17-9-5-10-18-24)25-19-11-6-12-20-25;/h4-12,15-20H,1-3,13-14,21-22H2;1H
